US05198598
The use of low palladium levels in the telomerization of conjugated dienes is disclosed in British patent No. 2,114,974. This patent teaches that when 1,4-butanediol, 1,5-pentanediol, and 1,6-hexanediol telomerized with butadiene, about a 61% yield of monoether based on butadiene can be realized by using a molar ratio of catalyst/diene equal to about 1/20,600. The patent also discloses that a large stoichiometric excess of diol is also necessary in order to obtain high yields of the desired monoether product. For best yields of monoether, the above patent also teaches that the optimum catalytic effect is obtained by combining the palladium catalyst with a nickel(II) compound and a base such as a quaternary ammonium hydroxide. The patent also discloses a method of removing the palladium catalyst with ion exchange resins from the reaction mixture after the reaction has been completed. The palladium levels are obviously not low enough to preclude the recovery step; an operation which the present invention eliminates. U.S. Pat. No. 3,746,749 discloses that octadienyl esters of adipic acid can be prepared in 86% yield by employing a molar ratio of Pd/Acid/Butadiene equal to 1/12,300/56,000 and octadienyl esters of fumaric acid can be prepared in 67% yield by employing a molar ratio of Pd/Acid/Butadiene equal to 1/60,000/28,000. However, these low palladium levels are used in conjunction with from 0.1 to 10 moles of an alkali metal salt of a carboxylic acid/mole of carboxylic acid. U.S. Pat. No. 4,417,079 teaches the telomerization of butadiene with water containing CO2 to produce octadienyl alcohol by introducing liquified butadiene continuously at the rate of 70 grams per hour at 80° C. for an hour. EP 287,066 teaches the telomerization of butadiene with water in a solvent such as sulfolane by continuous addition of butadiene to give a decreased amount of insoluble polymer. U.S. Pat. No. 4,146,738 teaches telomerization of a diolefin with a C1-8 alkanol in the presence of a palladium catalyst system in which the number of phosphine ligands is controlled by oxidation The diolefin is added such that it is replenished as it is consumed either in incremental portions or continuously as indicated by pressure drop. The patent further teaches in example 5 that the non-continuous addition of butadiene to isopropanol at a Pd/butadiene ratio equal to 1/3760 produces a product which is 49% octatriene in an overall yield based on butadiene of about 45%. In example 7 which employs the same reaction conditions as example 5, butadiene is added continuously. The product contains a large percentage of the octadienyl ether of isopropanol and a greatly diminished amount of octatriene (1.6%) but the total product yield based on butadiene decreased to about 31%. The process according to the present invention produces high yields of the octadienyl ethers of polyols while utilizing a Pd/butadiene ratio of no more than 1/10,000 in the presence of a secondary alcohol such as isopropanol as a solvent. The product contains only a small amount of octadienyl ether of the secondary alcohol solvent and less than about 12% by weight octatriene but in a yield based on alkadiene of greater than 80%. The process according to the present invention utilizes significantly lower amounts of expensive palladium catalyst and an alcohol solvent. The process according to the invention surprisingly produces little of the octadienyl ether of secondary alcohol solvent. GB 1,248,593 teaches the telomerization of butadiene with alkanols in the presence of a palladium catalyst. It is not clear whether the patent teaches a continuous addition of butadiene. For instance, in example 6, methanol is reacted "under a butadiene atmosphere for 4 hours at 30° C. The initially slow absorption increased steadily." The Pd/butadiene ratio employed is about 1/1,000. J. prakt. Chemie 315, 1067-76 (1973) teaches the continuous reaction of ethanol with butadiene in the presence of a palladium catalyst wherein the Pd/butadiene ratio is about 1/10,000. The yield of the octadienyl ether of ethanol is about 9.4% based on butadiene. U.S. Pat. No. 4,006,192 discloses the preparation of the di- and tri-1-( 2,7-octadienyl) ethers of trimethylolpropane by reaction of trimethylolpropane and butadiene using a catalyst prepared from palladium compounds, alkali metal salts of weak acids and phosphines. The teaching includes the disclosure that the Pd/butadiene ratio can be equal to from 1/1,000 to 1/100,000 and that the butadiene is added all at once. About 24% by weight of octatriene is formed along with the mono-, di- and tri-1-(2,7-octadienyl) ethers of trimethylolpropane.

reactant | 1,4-butanediol | C(CCCO)O | C4H10O2
reactant | 1,5-pentanediol | C(CCCCO)O | C5H12O2
reactant | 1,6-hexanediol | C(CCCCCO)O | C6H14O2
reactant | butadiene | C=CC=C | C4H6
reactant | fumaric acid | C(\C=C\C(=O)O)(=O)O | C4H4O4
reactant | CO2 | C(=O)=O | CO2
catalyst | palladium | [Pd] | Pd
catalyst | nickel(II) | [Ni+2]
solvent | water | O | H2O
product | octadienyl alcohol | 61% yield | C(=CC=CCCCC)O | C8H14O
